US07557103B2
D. 8′-Cyclopropyl-8-(1-ethyl-propyl)-2,6,2′,6′-tetramethyl-[3,3′]bi[imidazo[1,2-b]pyridazinyl]
Using a procedure analogous to Example 16B, 8-cyclopropyl-2,6-dimethyl-imidazo[1,2-b]pyridazine (76.5 mg, 0.41 mmol) and 8-(1-ethyl-propyl)-3-iodo-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.14 g, 0.41 mmol) give the title compound (71.6 mg, 0.18 mmol, 43%). 1H NMR (CDCl3): δ 0.91 (t, J=7.1 Hz, 6H), 1.05-1.11 (m, 2H), 1.24-1.30 (m, 2H), 1.75-1.93 (m, 4H), 2.41 (s, 3H), 2.42 (s, 3H), 2.44 (s, 3H), 2.45 (s, 3H), 2.65-2.75 (m, 1H), 3.33-3.45 (m, 1H), 6.64 (s, 1H), 6.67 (s, 1H) ppm. ES-MS (m/z): calcd for C24H30N6 (M+H)+: 403.6. found: 403.3.

reactant | 8-cyclopropyl-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.41 mmol, 76.5 mg | C1(CC1)C=1C=2N(N=C(C1)C)C=C(N2)C | C11H13N3
reactant | 8-(1-ethyl-propyl)-3-iodo-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.41 mmol, 0.14 g | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)I | C13H18IN3
product | 8′-Cyclopropyl-8-(1-ethyl-propyl)-2,6,2′,6′-tetramethyl-[3,3′]bi[imidazo[1,2-b]pyridazinyl] | 0.18 mmol, 71.6 mg, 43% | C1(CC1)C=1C=2N(N=C(C1)C)C(=C(N2)C)C2=C(N=C1N2N=C(C=C1C(CC)CC)C)C | C24H30N6
